US07902252B2
2.83. Synthesis of 4-(3,4-dichlorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (57)
The title compound was synthesized from methyl 4-(3,4-dichlorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.064 g, 0.2 mmol) and lithium hydroxide (0.084 g, 2.0 mmol in 3 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane to afford a light brown solid: 14 mg, 23% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.00-2.15 (m, 1H), 2.46-2.67 (m, 3H), 2.69-2.84 (m, 2H), 3.19-3.29 (m, 1H), 6.31 (s, 1H), 7.11 (dd, J=8.20, 2.00 Hz, 1H), 7.34 (d, J=1.95 Hz, 1H), 7.37-7.45 (m, 1H); HPLC (UV=96.1%), (ELSD=100%).

reactant | methyl 4-(3,4-dichlorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.2 mmol, 0.064 g | ClC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1Cl | C16H15Cl2NO2
reactant | lithium hydroxide | 2.0 mmol, 3 mL, 0.084 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(3,4-dichlorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 23% yield | ClC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1Cl | C15H13Cl2NO2
